US04800199
(6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-[(4-phenyl-2-thiazolyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 182 mg of (6R-trans)-3-[(acetyloxy)methyl]-8-oxo-7-[(4-phenyl-2-thiazolyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 0.5 ml of trifluoroacetic acid, 3 drops of anisole and 3 ml of dichloromethane was reacted as described in Example 2, giving 92 mg of the desired compound.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-8-oxo-7-[(4-phenyl-2-thiazolyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 182 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C1=CC=CC=C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H27N3O5S2
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | anisole | 3 drops | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-[(4-phenyl-2-thiazolyl)amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 92 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C1=CC=CC=C1)=O)C(=O)O | C19H17N3O5S2
